### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Presentable): sharply smaller regular cardinals

### PR DESCRIPTION
**Pull request by joelriou**
In this file, we introduce the predicate `Cardinal.SharplyLT`. Given two regular
cardinals `κ₁ < κ₂`, this condition can be described in different ways (a TFAE lemma will appear in a future PR). Here, we define it by saying that the category `CardinalDirectedPoset κ₁` is `κ₂`-accessible, and we show one of the implications for the future TFAE lemma.
(This PR also renames `CardinalFilteredPoset` as `CardinalDirectedPoset`.)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Presentable/SharplyLT/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,233 @@
...
+public import Mathlib.CategoryTheory.Presentable.CardinalDirectedPoset
+public import Mathlib.CategoryTheory.Presentable.Dense
+public import Mathlib.Order.TransfiniteIteration
+
+/-!
+# Sharply smaller regular cardinals
+
+In this file, we introduce the predicate `Cardinal.SharplyLT`. Given two regular
+cardinals `κ₁ < κ₂`, this condition can be described in different ways:
+(i) the category `IsCardinalAccessibleCategory C κ₁` is `κ₂`-accessible;
```
Comment (smorel394) [inline Mathlib/CategoryTheory/Presentable/SharplyLT/Basic.lean]: I don't understand this line. I don't know what `C` is, and `IsCardinalAccessibleCategory` is not a category but a `Prop`.

Comment (joelriou) [reply Mathlib/CategoryTheory/Presentable/SharplyLT/Basic.lean]: Thanks, I am fixing the phrasing, which should be
```
(i) the category `CardinalFilteredPoset κ₁` (of `κ₁`-directed partially ordered
  types, with order embeddings as morphisms), is `κ₂`-accessible;
```

**Comment by smorel394** [comment]
About the file `CardinalDirectedPoset.lean`: I am a little bothered by the fact that the file introducing the category `CardinalFilteredPoset` is called `CardinalDirectedPoset`. I don't know what the best name for the category is, but I think the names should be harmonized. Also, it would be helpful for the introduction to contain a reminder (with a reference) that "`κ`-directed" and "`κ`-filtered" are equivalent for posets, since these expressions are used interchangeably in the doc strings.

File: Mathlib/CategoryTheory/Presentable/SharplyLT/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,233 @@
...
+universe w v u
+
+open CategoryTheory Limits
+
+namespace Cardinal
+
+variable {κ₁ κ₂ : Cardinal.{w}} [Fact κ₁.IsRegular] [Fact κ₂.IsRegular]
+
+variable (κ₁ κ₂) in
+/-- If `κ₁ < κ₂` are two regular cardinal, we say that `κ₁` is sharply
```
Comment (smorel394) [inline Mathlib/CategoryTheory/Presentable/SharplyLT/Basic.lean]:
```suggestion
/-- If `κ₁ < κ₂` are two regular cardinals, we say that `κ₁` is sharply
```

File: Mathlib/CategoryTheory/Presentable/SharplyLT/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,233 @@
...
+smaller than `κ₂` if the category `CardinalFilteredPoset κ₁`
+is `κ₂`-accessible. There are other characterizations (TODO @joelriou),
+including the property that any `κ₁`-accessible category is
+also `κ₂`-accessible. -/
+public structure SharplyLT : Prop where
+  lt : κ₁ < κ₂
+  isCardinalAccessible_cardinalDirectedPoset :
+    IsCardinalAccessibleCategory (CardinalFilteredPoset κ₁) κ₂
```
Comment (smorel394) [inline Mathlib/CategoryTheory/Presentable/SharplyLT/Basic.lean]: I am bothered that the property `IsCardinalAccessibleCategory (CardinalFilteredPoset κ₁) κ₂` is called `isCardinalAccessible_cardinalDirectedPoset`.

File: Mathlib/CategoryTheory/Presentable/SharplyLT/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,233 @@
...
+
+namespace SharplyLT
+
+public lemma le (h : SharplyLT κ₁ κ₂) : κ₁ ≤ κ₂ := h.lt.le
+
+set_option backward.defeqAttrib.useBackward true in
+open CardinalFilteredPoset in
+public lemma exists_cofinal_of_isCardinalAccessibleCategory_cardinalFilteredPoset
```
Comment (smorel394) [inline Mathlib/CategoryTheory/Presentable/SharplyLT/Basic.lean]: This is a long proof with non-trivial stuff happening, and it is very hard for me to follow (without reading the Adamek-Rosicky book). Can you please add comments explaining what the proof is doing?

Comment (smorel394) [reply Mathlib/CategoryTheory/Presentable/SharplyLT/Basic.lean]: I have similar comments about the rest of the file, i.e. that there should be more comments in the code explaining what is going on. The last lemma `exists_isCardinalFiltered_set_of_exists_cofinal` proves implication (iii) => (iv) in Theorem 2.11 of loc. cit. but this is not mentioned, and it is unclear that the esoteric lemmas coming before are preparations for that proof.

File: Mathlib/CategoryTheory/Presentable/SharplyLT/Basic.lean (hunk 3 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Presentable/SharplyLT/Basic.lean]: This is fixed!

File: Mathlib/CategoryTheory/Presentable/SharplyLT/Basic.lean (hunk 4 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Presentable/SharplyLT/Basic.lean]: Ok, I will try to understand again the proofs and add a few comments...

Comment (joelriou) [reply Mathlib/CategoryTheory/Presentable/SharplyLT/Basic.lean]: I have added some comments about the proofs.

File: Mathlib/CategoryTheory/Presentable/CardinalDirectedPoset.lean [hunk 5]
```diff
@@ -91,101 +98,101 @@ namespace CategoryTheory
 variable (κ : Cardinal.{u}) [Fact κ.IsRegular]
 
 /-- The category of `κ`-filtered partially ordered types,
-with morphisms given by order embeddings. -/
-abbrev CardinalFilteredPoset :=
+with morphisms given by order embeddings. () -/
```
Comment (smorel394) [inline Mathlib/CategoryTheory/Presentable/CardinalDirectedPoset.lean]:
```suggestion
with morphisms given by order embeddings. -/
```

File: Mathlib/CategoryTheory/Presentable/SharplyLT/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,268 @@
...
+  -- category `J`) of `κ₂`-presentable objects (i.e. partially ordered
+  -- types of cardinality `< κ₂`.)
+  obtain ⟨J, _, _, ⟨p⟩⟩ := (isCardinalFilteredGenerator_isCardinalPresentable
+    (CardinalDirectedPoset κ₁) κ₂).exists_colimitsOfShape (setCardinalLT κ₁ X)
+  have : IsCardinalFiltered J κ₁ := .of_le _ h
+  have hp (j : J) : HasCardinalLT (p.diag.obj j).obj κ₂ := by
+    rw [← CardinalDirectedPoset.isCardinalPresentable_iff _ h]
+    exact p.prop_diag_obj j
+  -- For each `x : X`, we choose `j : J` in such a way that the singleton
+  -- `{x}` belongs to the image of `p.diag.obj j`.
```
Comment (smorel394) [inline Mathlib/CategoryTheory/Presentable/SharplyLT/Basic.lean]:
```suggestion
  -- `{x}` belongs to the image of `p.diag.obj j` in `SetCardinalLT κ₁ X`.
```

File: Mathlib/CategoryTheory/Presentable/SharplyLT/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,268 @@
...
+
+set_option backward.defeqAttrib.useBackward true in
+open CardinalDirectedPoset in
+/-- This is the implication (i) → (iii) in the characterizations
+of `SharplyLT κ₁ κ₂` in the docstring of this file. -/
+public lemma exists_cofinal_of_isCardinalAccessibleCategory_cardinalDirectedPoset
+    (h : κ₁ ≤ κ₂) [IsCardinalAccessibleCategory (CardinalDirectedPoset κ₁) κ₂]
+    {X : Type w} (hX : HasCardinalLT X κ₂) :
+    ∃ (Y : Set (SetCardinalLT κ₁ X)), HasCardinalLT Y κ₂ ∧ IsCofinal Y := by
+  -- We write the partially ordered type `setCardinalLT κ₁ X` of subsets
```
Comment (smorel394) [inline Mathlib/CategoryTheory/Presentable/SharplyLT/Basic.lean]:
```suggestion
  -- We write the partially ordered type `SetCardinalLT κ₁ X` of subsets
```

File: Mathlib/CategoryTheory/Presentable/SharplyLT/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,268 @@
...
+section
+
+open CardinalDirectedPoset
+
+namespace existsIsCardinalFilteredSetOfExistsCofinal
+
+/-! The definitions in this section are part of the proof of the
+lemma `exists_isCardinalFiltered_set_of_exists_cofinal` below,
+which is the implication (iii) → (iv) in the characterizations
+of `Sharply κ₁ κ₂` which appear in the docstring of this file. -/
```
Comment (smorel394) [inline Mathlib/CategoryTheory/Presentable/SharplyLT/Basic.lean]:
```suggestion
of `SharplyLT κ₁ κ₂` which appear in the docstring of this file. -/
```

File: Mathlib/CategoryTheory/Presentable/SharplyLT/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,268 @@
...
+    simp only [Set.mem_image, Subtype.exists, exists_and_right, exists_eq_right]
+    refine ⟨hb, @hC' ⟨b, hb⟩ (by simp)⟩
+  · simp
+
+variable (κ₁) in
+noncomputable abbrev orderBot : OrderBot κ₁.ord.ToType :=
+  have : Nonempty κ₁.ord.ToType := by
+    rw [Ordinal.nonempty_toType_iff, ne_eq, ord_eq_zero]
+    exact IsRegular.ne_zero Fact.out
+  WellFoundedLT.toOrderBot _
```
Comment (smorel394) [inline Mathlib/CategoryTheory/Presentable/SharplyLT/Basic.lean]: I think that this should be put somewhere else. It has nothing to do with regular cardinals and does not require the fact that `κ₁` is regular. Also, with the current placement the type of `orderBot` is `(κ₁ : Cardinal.{w}) → [Fact κ₁.IsRegular] → OrderBot κ₁.ord.ToType`

File: Mathlib/CategoryTheory/Presentable/SharplyLT/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,268 @@
...
+    rw [← hasCardinalLT_iff_cardinal_mk_lt] at hK
+    have (k : K) : ∃ (j : κ₁.ord.ToType), (f k).val ∈ transfiniteIterate (φ Y m) j A := by
+      simpa only [Set.mem_iUnion] using (f k).prop
+    choose a ha using this
+    obtain ⟨⟨z, hz⟩, hz'⟩ := this (IsCardinalFiltered.max a hK) (fun k ↦
+      ⟨(f k).val, monotone_transfiniteIterate_φ Y hY' m A
+          (leOfHom (IsCardinalFiltered.toMax a hK k)) (ha k)⟩) hK
+    exact ⟨⟨z, Set.subset_iUnion _ _ hz⟩, hz'⟩
+  intro K j f hK
+  have := hasCardinalLT_transfiniteIterate_φ h₀ Y hY m A
```
Comment (smorel394) [inline Mathlib/CategoryTheory/Presentable/SharplyLT/Basic.lean]:
```suggestion
```

**Comment by smorel394** [comment]
Thank you for the new doc strings! The PR looks good to me now.

File: Mathlib/CategoryTheory/Presentable/SharplyLT/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,263 @@
...
+(i) the category `CardinalDirectedPoset κ₁` (of `κ₁`-directed partially ordered
+  types, with order embeddings as morphisms), is `κ₂`-accessible;
+(ii) any `κ₁`-accessible category is `κ₂`-accessible.
+(iii) for any type `X` of cardinality `< κ₂`, there exists a cofinal set of
+  cardinality `< κ₂` in the subtype of subsets of `X` of cardinality `< κ₁`;
+(iv) for any `κ₁`-directed partially ordered type `X` and any subset `A` of `X`
+  of cardinality `< κ₂`, there exists a `κ₁`-directed subset `B` of `X` containing `A`
+  that is of cardinality `< κ₂`.
+This is Theorem 2.11 in the book by Adámek and Rosický (TODO @joelriou). Here,
+we take (i) as the definition.
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Presentable/SharplyLT/Basic.lean]:
```suggestion
The equivalence of these conditions (i)-(iv) is Theorem 2.11 in the book by Adámek and Rosický
(TODO @joelriou). Here, we take (i) as the definition.
```

Comment (dagurtomas) [reply Mathlib/CategoryTheory/Presentable/SharplyLT/Basic.lean]: Also consider listing the implications that are currently in this file, with the names of the corresponding Lean declarations

File: Mathlib/CategoryTheory/Presentable/SharplyLT/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,263 @@
...
+omit [Fact κ₂.IsRegular] [PartialOrder X] in
+lemma le_φ (B : Set X) : B ≤ φ Y m B := by
+  dsimp [φ]
+  split_ifs with hB
+  · intro b hb
+    obtain ⟨C, hC, hC'⟩ := hY' B hB ⟨{⟨b, hb⟩},
+      hasCardinalLT_of_finite _ _ (IsRegular.aleph0_le Fact.out)⟩
+    refine Set.subset_iUnion _ ⟨C, hC⟩ (Or.inl ?_)
+    simp only [Set.mem_image, Subtype.exists, exists_and_right, exists_eq_right]
+    refine ⟨hb, @hC' ⟨b, hb⟩ (by simp)⟩
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Presentable/SharplyLT/Basic.lean]:
```suggestion
    exact ⟨hb, @hC' ⟨b, hb⟩ (by simp)⟩
```

**Review by dagurtomas — COMMENTED** [review]
Thanks!

maintainer delegate

File: Mathlib/CategoryTheory/Presentable/SharplyLT/Basic.lean (hunk 11 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Presentable/SharplyLT/Basic.lean]: Thanks for the suggestion.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
